US07569578B2
(±)-tert-Butyl 1-(1-(3-fluorobenzyl)-1H-imidazol-2-yl)-2-(7-methyl-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-5-yl)ethylcarbamate
A mixture of tert-Butyl-1-(1H-imidazol-2-yl)-2-(7-methyl-2-[{2-[trimethylsilyl]ethoxy}methyl]-2H-indazol-5-yl)ethylcarbamate (20 mg, 0.042 mmol), 3-fluoro benzyl bromide (5.5 μL, 0.045 mmol, 1.1 equiv), and potassium carbonate (11.7 mg, 0.09 mmol) in dimethylformamide (0.6 mL) was stirred at room temperature for 16 h. The solvents were removed in vacuo and the residue purified by column chromatography to afford 15.2 mg (63%). Mass spec.: 580.04 (MH)+.

reactant | tert-Butyl-1-(1H-imidazol-2-yl)-2-(7-methyl-2-[{2-[trimethylsilyl]ethoxy}methyl]-2H-indazol-5-yl)ethylcarbamate | 0.042 mmol, 20 mg | C(C)(C)(C)OC(NC(CC1=CC2=CN(N=C2C(=C1)C)COCC[Si](C)(C)C)C=1NC=CN1)=O | C24H37N5O3Si
reactant | 3-fluoro benzyl bromide | 0.045 mmol, 5.5 μL, 1.1 equiv | FC=1C=C(CBr)C=CC1 | C7H6BrF
reactant | potassium carbonate | 0.09 mmol, 11.7 mg | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 0.6 mL | CN(C=O)C | C3H7NO
product | (±)-tert-Butyl 1-(1-(3-fluorobenzyl)-1H-imidazol-2-yl)-2-(7-methyl-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-5-yl)ethylcarbamate | FC=1C=C(CN2C(=NC=C2)C(CC2=CC3=CN(N=C3C(=C2)C)COCC[Si](C)(C)C)NC(OC(C)(C)C)=O)C=CC1 | C31H42FN5O3Si
